US07786108B2
Step 2. Preparation of (S)-(4-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-ylmethyl}-cyclohexyl)-acetic acid
To a solution of (S)-(4-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-ylmethyl}-cyclohexyl)-acetic acid benzyl ester (0.07 mmol) in methanol (5 mL), add NaOH (3 mL of 5N) and heat to 60° C. for 2 h. After cooling to room temperature, dilute with water (20 mL) and neutralize using 5 M HCl. Extract the organic phase using ethyl acetate (3×10 mL). Dry the combined organics over sodium sulfate, filter, and remove solvent under vacuum, to provide the title compound as a colorless foam. MS (ES+): 667 (M+H).

reactant | (S)-(4-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-ylmethyl}-cyclohexyl)-acetic acid benzyl ester | 0.07 mmol | C(C1=CC=CC=C1)OC(CC1CCC(CC1)CN1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O | C39H42F6N6O3
reactant | NaOH | 5N, 3 mL | [OH-].[Na+]
reactant | HCl | 5 M | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | (S)-(4-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-ylmethyl}-cyclohexyl)-acetic acid | FC(C=1C=C(CN([C@H]2CCCN(C=3C2=CC=2COCC2C3)CC3CCC(CC3)CC(=O)O)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C32H36F6N6O3
